US07795249B2
To 2-(3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol (29.85 mg, 0.1149 mmol) placed in a sealed tube was added a solution of 5-pyridin-2-ylthiophene-2-sulfonyl chloride (29.85 mg, 0.1045 mmol) in pyridine (0.5 mL). The reaction mixture was shaken at rt for 18 h. The reaction mixture was diluted with a saturated solution of sodium bicarbonate (2.0 mL) and extracted with DCM. The organic solutions were combined, dried over MgSO4, filtered, and concentrated. The residue was purified by RP-HPLC to give 2-{3-pyridin-3-yl-1-[(5-pyridin-2-yl-2-thienyl)sulfonyl]-4,5-dihydro-1H-pyrazol-5-yl}phenol (I-126) (14.50 mg, 30.0%). 1H NMR (300 MHz, d6-DMSO) δ: 9.77 (s, 1H), 8.87 (bd, 1H), 8.64 (dd, 1H), 8.56 (bd, 1H), 8.12 (dt, 1H), 8.03 (d, 1H), 7.87-7.92 (m, 2H), 7.72 (d, 1H), 7.48 (dd, 1H), 7.35-7.40 (m, 2H), 7.11-7.17 (m, 1H), 6.81-6.85 (m, 2H), 5.24 (dd, 1H), 3.74 (dd, 1H), and 3.20 (dd, 1H). LCMS: (FA) ES+ 463.0, ES-460.9.

reactant | 2-(3-pyridin-3-yl-4,5-dihydro-1H-pyrazol-5-yl)phenol | 0.1149 mmol, 29.85 mg | N1=CC(=CC=C1)C1=NNC(C1)C1=C(C=CC=C1)O | C14H13N3O
reactant | 5-pyridin-2-ylthiophene-2-sulfonyl chloride | 0.1045 mmol, 29.85 mg | N1=C(C=CC=C1)C1=CC=C(S1)S(=O)(=O)Cl | C9H6ClNO2S2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | sodium bicarbonate | 2.0 mL | C([O-])(O)=O.[Na+]
product | 2-{3-pyridin-3-yl-1-[(5-pyridin-2-yl-2-thienyl)sulfonyl]-4,5-dihydro-1H-pyrazol-5-yl}phenol | 14.50 mg, 30.0% | N1=CC(=CC=C1)C1=NN(C(C1)C1=C(C=CC=C1)O)S(=O)(=O)C=1SC(=CC1)C1=NC=CC=C1 | C23H18N4O3S2
